US04797492
3-Trifluoromethyl-5-methylaminoisoxazole
Sodium metal (0.28 g, 12.3 mmole) was dissolved in dry methanol (12.3 ml) and to this solution was added 3-trifluoromethyl-5-acetylaminoisoxazole (2.38 g, 12.26 mmole). After stirring at room temperature for 15 minutes, the mixture was concentrated in vacuo and dry benzene (12.3 ml) was added to the residue. The mixture was concentrated in vacuo and dry benzene (18.4 ml) and dimethyl sulfate (1.55 g, 12.3 mmole) were added to the residue, followed by refluxing for 2 hours. After cooling, the precipitated crystals were filtered off. The filtrate was washed with a 8% solution of sodium bicarbonate and concentrated in vacuo. A 5% solution of sodium hydroxide (11.8 g) was added to the residue and the mixture was sitrred at room temperature for 2 hours. It was extracted with methylene chloride and the methylene chloride layer was dried with anhydrous sodium sulfate. The extract was concentrated in vacuo and the resulting residue was recrystallized from cyclohexane to give the title compound as colorless columns. Yield: 1.41 g (65.4%). m.p. 48.5°-50.0° C.

reactant | Sodium | 12.3 mmole, 0.28 g | [Na] | Na
reactant | 3-trifluoromethyl-5-acetylaminoisoxazole | 12.26 mmole, 2.38 g | FC(C1=NOC(=C1)NC(C)=O)(F)F | C6H5F3N2O2
reactant | benzene | 18.4 ml | C1=CC=CC=C1 | C6H6
reactant | dimethyl sulfate | 12.3 mmole, 1.55 g | S(=O)(=O)(OC)OC | C2H6O4S
solvent | methanol | 12.3 ml | CO | CH4O
product | 3-Trifluoromethyl-5-methylaminoisoxazole | FC(C1=NOC(=C1)NC)(F)F | C5H5F3N2O
